US04956359
N-(2-Propenyl)-3-(2-pyridinyloxy)-1-azetidinecarboxamide
To a stirred suspension of 10 g (0.072 mole) of finely ground potassium carbonate in 90 ml of methylene chloride was added 32 ml (0.062 mole) of 2M phosgene in benzene. The mixture was stirred for 15 min and 8 g (0.031 mole) of 1-(1-phenylethyl)-3-(2-pyridyloxy)azetidine in 50 ml of methylene chloride was added. The mixture was stirred at 25° C. for 2 hr and concentrated on a rotary evaporator at 25° C./30 mm, and the residue was treated with 100 ml of tetrahydrofuran. The stirred mixture was cooled with an ice bath and treated dropwise with 4 g (0.07 mole) of allyl amine. After stirring 30 min at 25° C., the material was partitioned between water and methylene chloride. The methylene chloride was dried and concentrated. The residue was chromatographed on a Waters® PREP-500 HPLC using a silica column and eluting with 50% ethylacetate-hexane. The product was crystallized twice from isopropyl ether. Yield of title compound was 1.5 g (21%), m.p. 72°-76° C.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phosgene | 0.062 mole, 2M, 32 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-(1-phenylethyl)-3-(2-pyridyloxy)azetidine | 0.031 mole, 8 g | C1(=CC=CC=C1)C(C)N1CC(C1)OC1=NC=CC=C1 | C16H18N2O
reactant | allyl amine | 0.07 mole, 4 g | C(C=C)N | C3H7N
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Propenyl)-3-(2-pyridinyloxy)-1-azetidinecarboxamide | C(C=C)NC(=O)N1CC(C1)OC1=NC=CC=C1 | C12H15N3O2
